US03972901
Into a test tube fitted with a cold finger condenser and a nitrogen bypass was put maleic anhydride (1.93 g., 19.7 mmole) and 1,1-dichloro-2-methyl-2-phenylcyclopropane (4.06 g., 20.2 mmole) along with 17.6 mg. hydroquinone. The tube containing the mixture was partially immersed in an oil bath whose temperature was slowly increased. Initial gas evolution was noted at 160°C. (bath). Steady gas evolution occurred at 178°C. with a final heating to 197°C. to insure complete reaction. Total heating time was 6 hours. The product was dissolved in benzene (5 ml.) and the solution was poured into 50 ml. n-hexane. The resultant oil soon crystallized giving 4.65 g (90 percent, m.p. 82°-90°C.) crude product which behaved as a mixture of anhydride and acid. Solution in water gave pure 1-chloro-2-phenylcyclohexene-4,5-dicarboxylic acid (m.p. 187°-189°C.).

reactant | maleic anhydride | 19.7 mmole, 1.93 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 1,1-dichloro-2-methyl-2-phenylcyclopropane | 20.2 mmole, 4.06 g | ClC1(C(C1)(C1=CC=CC=C1)C)Cl | C10H10Cl2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | n-hexane | CCCCCC | C6H14
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 1-chloro-2-phenylcyclohexene-4,5-dicarboxylic acid | ClC1=C(CC(C(C1)C(=O)O)C(=O)O)C1=CC=CC=C1 | C14H13ClO4
